US03951987
A mixture of 2.15 g. of 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride, 2.5 g. of p-(2-bromoethoxy)-nitrobenzene, 2.8 g. of potassium carbonate, 20 ml. of ethanol and 2 ml. of water is refluxed for 3 days. After filtration the crude product crystallizes from the hot reaction mixture. It is purified by chromatography on silica gel using methylene chloride for elution. The 4-(p-fluorophenyl)-1,2,3,6-tetrahydro-1-[2-(p-nitrophenoxy)ethyl]pyridine obtained melts at 104°-107° after recrystallization from ethanol.

reactant | 4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.FC1=CC=C(C=C1)C=1CCNCC1
reactant | p-(2-bromoethoxy)-nitrobenzene | BrCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(p-fluorophenyl)-1,2,3,6-tetrahydro-1-[2-(p-nitrophenoxy)ethyl]pyridine | FC1=CC=C(C=C1)C=1CCN(CC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C19H19FN2O3
